US06149838
To a mixture of dichlorobistriphenylphosphine palladium (4.2 mmol) and copper iodide (0.64 mmol) was added diethylamine, and stirred at room temperature under argon gas atmosphere for 30 minutes. Then, 4-(trans-4-propylcyclohexyl)-1-(2-iodoethynyl)benzene (0.12 mol) was added thereto, and further stirred at room temperature for 15 minutes. To this reaction mixture was added (trimethylsilyl)acetylene (0.14 mol), and stirred at room temperature overnight. After completion of the reaction, water was added thereto and extracted with toluene twice. The organic layer thus obtained was washed with water, and then dried over anhydrous magnesium sulfate. After it was subjected to filtration, the solvent was distilled off under a reduced pressure. The residue was purified by column chromatography (silica gel/heptane) and recrystallization (ethanol) to obtain colorless crystals of 4-(trans-4-propylcyclohexyl)-1-(4-trimethylsilyl-1,3-butadiyne-1-yl)benzene. (Yield 24%).

reactant | diethylamine | C(C)NCC | C4H11N
reactant | 4-(trans-4-propylcyclohexyl)-1-(2-iodoethynyl)benzene | 0.12 mol | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C#CI | C17H21I
reactant | (trimethylsilyl)acetylene | 0.14 mol | C[Si](C)(C)C#C | C5H10Si
catalyst | copper iodide | 0.64 mmol | [Cu](I)I
solvent | water | O | H2O
product | 4-(trans-4-propylcyclohexyl)-1-(4-trimethylsilyl-1,3-butadiyne-1-yl)benzene | Yield 24% | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C#CC#C[Si](C)(C)C | C22H30Si
